simulator lang=spectre
global 0

ahdl_include "../submission/rail_ramp_rate_startup_monitor.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=100p period=1n width=420p rise=20p fall=20p
Vvss (vss 0) vsource type=pwl wave=[0 0 10n 0 10.05n 0.04 18n 0.04]
Vvdd (vdd 0) vsource type=pwl wave=[0 0.20 0.9n 0.20 0.95n 0.31 1.9n 0.31 1.95n 0.45 2.9n 0.45 2.95n 0.59 3.9n 0.59 3.95n 0.73 4.9n 0.73 4.95n 0.86 5.9n 0.86 5.95n 0.90 6.9n 0.90 6.95n 0.91 9.9n 0.91 9.95n 1.13 10.9n 1.13 10.95n 0.95 11.9n 0.95 11.95n 0.96 14.9n 0.96 14.95n 0.80 18n 0.80]
Ven (en 0) vsource type=pwl wave=[0 0.9 12n 0.9 12.05n 0.0 13.8n 0.0 13.85n 0.9 18n 0.9]
XDUT (clk vdd vss en rail_ok ramp_ok startup_ready slew_metric) rail_ramp_rate_startup_monitor

tran tran stop=18n maxstep=10p
save clk en rail_ok ramp_ok slew_metric startup_ready vdd vss
